US08034945B2
(c). 4-(3-Amino-5-bromo-4-hydroxy-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile
To a solution of 4-(3-bromo-4-hydroxy-5-nitro-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile (15.8 g) and acetic acid (30 ml) in THF (300 ml), zinc dust (46 g) was added in portions, under vigorous stirring. After 2 h, the mixture was filtered and concentrated until a precipitate formed. This precipitate was collected by filtration and washed with ethanol.

reactant | 4-(3-bromo-4-hydroxy-5-nitro-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile | 15.8 g | BrC=1C=C(C=C(C1O)[N+](=O)[O-])C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N | C20H20BrN3O4
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | THF | 300 ml | C1CCOC1 | C4H8O
catalyst | zinc | 46 g | [Zn] | Zn
product | 4-(3-Amino-5-bromo-4-hydroxy-phenyl)-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile | NC=1C=C(C=C(C1O)Br)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N | C20H22BrN3O2
